US06232316B1
N-Methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine
Di-tert-butyl dicarbonate (6.84 g, 31.35 mmol) was quickly added in several portions to a cold (0-5° C.), stirring solution of N-methyl-4-penten-2-amine (3.66 g, 25.68 mmol) in dry THF (25 mL, freshly distilled from sodium and benzophenone). The resulting light-yellow solution was stirred and allowed to warm to ambient temperature over several hours. The solution was concentrated on a rotary evaporator. The resulting oil was vacuum distilled using a short-path distillation apparatus, collecting 5.22 g (88.4%) of an almost colorless oil, bp 85-86° C. at 5.5 mm Hg.

reactant | Di-tert-butyl dicarbonate | 31.35 mmol, 6.84 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-methyl-4-penten-2-amine | 25.68 mmol, 3.66 g | CNC(C)CC=C | C6H13N
solvent | THF | C1CCOC1 | C4H8O
product | N-Methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine | CN(C(C)CC=C)C(=O)OC(C)(C)C | C11H21NO2
